US07329764B2
To a stirred solution of 3-bromo-2-fluoro-benzonitrile (2 g, 10 mmol) in DMF (50 mL) was added 2-mercaptoacetamide (1.2 eq., 12 mL, 100 mg/mL in MeOH-ammonia solution) followed by sodium methoxide (1.2 eq., 24 mL, 0.5 M in MeOH) at room temperature under nitrogen. After 2 h, the resulting homogenous yellow solution was warmed to 70° C. for 17 h. Upon cooling to room temperature, the resulting dark green reaction mixture was concentrated to give a green solid. This solid was diluted with MeOH and collected via filtration to give 2.0 g (74%) of 3-amino-7-bromo-benzo[b]thiophene-2-carboxylic acid amide.

reactant | 3-bromo-2-fluoro-benzonitrile | 10 mmol, 2 g | BrC=1C(=C(C#N)C=CC1)F | C7H3BrFN
reactant | 2-mercaptoacetamide | 12 mL, 1.2 eq. | SCC(=O)N | C2H5NOS
reactant | sodium methoxide | 0.5 M, 24 mL, 1.2 eq. | C[O-].[Na+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
product | 3-amino-7-bromo-benzo[b]thiophene-2-carboxylic acid amide | 2.0 g, 74% | NC=1C2=C(SC1C(=O)N)C(=CC=C2)Br | C9H7BrN2OS
